US08084483B2
Phosphorus oxychloride (2.4 mmol) is added dropwise over 5 mins to a solution of 2-(5-bromo-4-(1-cyclopropylnaphthalen-4-yl)-4H-1,2,4-triazol-3-ylthio)acetic acid (810 mg, 2.0 mmol) in pyridine (20 mL) at 0° C. The mixture is stirred at 0° C. for a further 1 hour and then glyceryl monooleate (715 mg, 20 mmol) dissolved in pyridine (5 mL) is added dropwise over 5 mins. The mixture is stirred at 0° C. for a further 3 hours and 1 hour at 20° C. and then quenched by addition of water (1 mL). Volatile solvents are removed in vacuo and DCM (200 mL) added. The organic phase is washed with water (1×50 mL), saturated sodium carbonate solution (1×50 mL) and brine (1×50 mL), dried over Na2SO4, concentrated to dryness and purified by column chromatography (acetone/DCM eluent) to provide 3-(2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetoxy)-2-hydroxypropyl oleate.

reactant | Phosphorus oxychloride | 2.4 mmol | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(5-bromo-4-(1-cyclopropylnaphthalen-4-yl)-4H-1,2,4-triazol-3-ylthio)acetic acid | 2.0 mmol, 810 mg | BrC=1N(C(=NN1)SCC(=O)O)C1=CC=C(C2=CC=CC=C12)C1CC1 | C17H14BrN3O2S
reactant | glyceryl monooleate | 20 mmol, 715 mg | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCC(O)CO | C21H40O4
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 3-(2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetoxy)-2-hydroxypropyl oleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCC(COC(CSC1=NN=C(N1C1=CC=C(C2=CC=CC=C12)C1CC1)Br)=O)O | C38H52BrN3O5S
